US07655669B2
3-Ethylamino-5-(trifluoromethyl)-benzoic acid methyl ester
A mixture of 3-amino-5-(trifluoromethyl)-benzoic acid methyl ester (J. Med. Chem. (1969) 12, 299-303; 4.23 g, 19.3 mmol), potassium carbonate (8.0 g, 57.9 mmol) and iodoethane (3.12 mL, 38.6 mmol) in 20 mL N,N-dimethylformamide is stirred at 65° C. for 14 hours in a tightly closed vessel. After cooling, the reaction mixture is filtered and the filtrate evaporated to dryness under reduced pressure. The residue is treated with water and extracted three times with ethyl acetate. The combined extracts are dried (Na2SO4) and the solvent is evaporated off under reduced pressure. The resulting residue is purified by column chromatography on silica gel, eluent hexane/methylene chloride (1:1).

reactant | 3-amino-5-(trifluoromethyl)-benzoic acid methyl ester | 19.3 mmol, 4.23 g | COC(C1=CC(=CC(=C1)C(F)(F)F)N)=O | C9H8F3NO2
reactant | potassium carbonate | 57.9 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 38.6 mmol, 3.12 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-Ethylamino-5-(trifluoromethyl)-benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C(F)(F)F)NCC)=O | C11H12F3NO2
